Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
"I'm bottoming out"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo married, Caucasian female with h/o
depression and anxiety who self-presented to the ___ ED at the
recommendation of a mental health hotline with worsening
depression over the past ___s suicidal ideation
without plan. She states that she has many stressors in her life
at this time including recent declaration of bankruptcy,
unsuccessful job search, and multiple medical problems. She has
had surgery four times in the past 2 ___ years, and feels guilty
that her medical bills have caused her family's bankruptcy. She
is specifically concerned that her antidepressant, Wellbutrin, 
is
worsening her symptoms of anxiety and depression. She had been 
on
Prozac and lexapro for ___ years, but her PCP switched her to
Wellbutrin approx 15 months ago, and she has noted insomnia,
anxiety, migraines, and mood swings since that time. 

On psych ROS she endorses symptoms of depression including 
guilt,
hopelessness, worthlessness, poor sleep (four hours nightly, 
with
early morning awakenings), tearfulness, poor energy, poor
appetite, poor concentration, poor memory. Denies change in
motivation. Endorses SI with plan to overdose or hang self,
denies rehearsal of plan. Denies desire to follow through with
plan, stating "I want to live. I want to live a happy life" but
feels that she is in a "desperate situation." Denies current
manic symptoms but endorses past history ___ years ago of 
increased
goal directed behavior, risky behavior (hypersexually), racing
thoughts. Denies AVTH. Denies delusions. Endorses anxiety
symptoms of ruminations, poor concentration, tremulousness
throughout most days. Endorses history of physical trauma at ___
years old and flashbacks/nightmares but has not experiences 
these
for past several years. 

Collateral from husband states that patient has been more
depressed since ___. He notes specifically that she has
been crying daily, sleeping poorly, and expressing hopelessness
about their financial situation. He feels she called the help
line today because many things "came crashing down" including 
not
getting called after a second interview at a job and worsening
migraines. He shares that she frequently makes comments that she
wants to end her life, specifically stating plans to overdose.
She has not been making these comments more frequently in the
recent days. He does not feel she is unsafe because after she
makes these statements, he hides the medication in the house so
she cannot access it. He denies knowledge of history of prior
self-injurious behavior or suicide attempts.  

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: none prior
Current treaters and treatment: No psychiatric treaters. 
Received
psych meds by PCP. 
Medication and ECT trials: Was on prozac and lexapro for ___ 
years
with good treatment of depression. Switched to Wellbutrin 15
months ago due to PCP concern of weight gain on prior meds. 
Self-injury: denies. 
Harm to others: denies. 
Access to weapons: denies. 

MEDICATIONS including vitamins, herbs, supplements, OTC:
Wellbutrin 75 mg PO TID (but patient taking BID)
OCP
omeprazole

Past medical history: 
Polycystic ovarian syndrome and anxiety

Past surgical history:
Laparoscopic Roux-en-Y gastric bypass at ___ ___ 
laparoscopic appendectomy (___)

 
Social History:
SUBSTANCE ABUSE HISTORY:
Endorses twice weekly MJ use for nausea. Denies alcohol, 
tobacco,
or other illicit substance use. 

FORENSIC HISTORY:
Arrests: denies
Convictions and jail terms: denies
Current status (pending charges, probation, parole) Has filed
bankruptcy

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Mother and Father w depression. 2 half sisters with bipolar
disorder. Brother with unknown mental illness. Denies family
history of suicide attempts. Parents and all siblings are
alcoholics. 

 
Physical Exam:
ROS:
Endorses constant migraines in left ocular region, range from
___ to ___ in terms of pain, associated with nausea and
vomiting as well as photophobia. Currently ___. Endorses
frequent diarrhea and constipation. All other systems reviewed
and negative. 

EXAM: 
*VS:  BP: 132/75  HR: 99   temp:98.5 resp:  18 O2 sat: 99% RA

Neurological:  
 *station and gait: not assessed
 *tone and strength: normal
 cranial nerves: CN II-XII grossly intact. 
 abnormal movements: none

Cognition: 
 Wakefulness/alertness: alert
 *Attention (digit span, MOYB): able to state MOYB
 *Orientation: oriented to person/place ___ (___)
 Executive function (go-no go, Luria, trails, FAS):
 *Memory:   able to register and recall ___ at 5 mins
 *Fund of knowledge:  knows current and 2 prior presidents
 Calculations: able to calculate 7 quarters in $1.75  
 Abstraction: Can't judge a book by it's cover = "there's more
than meets the eye"
 *Language: fluent
 
Mental Status:
 *Appearance: overweight Caucasian female who appears stated 
age,
with fair hygiene, wearing long sleeve shirt and pants, 
clutching
purse in lap 
 Behavior: appropriate eye contact, pleasant, laughs on 
occasion,
tearful at times
 *Speech: normal rate, rhythm, volume, tone
 *Mood and Affect: mood = "alternating between anxious and
depressed" affect= dysphoric, restricted, labile, congruent
 *Thought process / *associations:  linear, logical
 *Thought Content: endorses SI with plan to OD or hang self as
per HPI. Denies HI. Denies AVTH. Thought content significant for
themes of hopelessness
 *Judgment and Insight:  insight good, judgement fair

 
Pertinent Results:
___ 09:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 07:14PM   GLUCOSE-93 UREA N-14 CREAT-0.7 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-106 TOTAL CO2-24 ANION GAP-15
___ 07:14PM   VIT B12-879 FOLATE-13.7
___ 07:14PM   TSH-1.8
___ 07:14PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:14PM   WBC-10.1 RBC-4.17* HGB-12.9 HCT-38.6 MCV-93 
MCH-31.0 MCHC-33.4 RDW-12.8
___ 07:14PM   NEUTS-68.1 ___ MONOS-4.7 EOS-2.3 
BASOS-1.2
___ 07:14PM   PLT COUNT-279
 
Brief Hospital Course:
#)SAFETY: The patient was placed on q15min checks on admission 
and remained as such during her hospital stay. She did not 
demonstrated any unsafe behaviors while on the
unit.

#)LEGAL: ___
2. s/p Gastric bypass: B12/folate were checked and were within 
normal limits. Nutrition was consulted who had no additional 
recommendations. We continue omeprazole 20 mg daily. Her 
hematocrit was normal and stable. 

#)GROUPS/MILIEU
The patient was visible on the unit, and interactive her peers. 
She attended the majority groups and was participatory, 
demonstrating improved and good insight. She never engaged in 
any unsafe behaviors, ate all meals in the milieu and cooperated 
with unit rules.

#)RISK ASSESSMENT: at time of discharge the patient did not 
present as an acute risk to herself. Her suicidal ideation had 
resolved, she was insightful about her mood and safety, and 
appropriately reflected on her plan to cope with her multiple 
psychosocial stressors at this time. She had no evidence of 
impulsivity or irrational thinking. She feels well supported 
emotionally by her husband, and was easily future oriented. She 
also feels that she has good relationships with her family and 
inlaws. She does present at a chronic risk of relapse into 
suicidal thoughts given the degree of stress in her life, 
however she is motivated to continue both medication and therapy 
for depression. She is help seeking, and knowledgeable about how 
to access emergency services should her safety be at risk again 
and appears reliable in doing so.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 75 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. HydrOXYzine 25 mg PO Q6H:PRN anxiety, insomnia 
RX *hydroxyzine HCl 25 mg 1 by mouth twice a day Disp #*60 
Tablet Refills:*0
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I: Major Depressive Disorder
AXIS II: deferred
AXIS III: migraines
 

 
Discharge Condition:
VS: T 96.7, P 65, BP 125/76 , RR 18 , SpO2 100% on RA
Appearance: No apparent distress. Adequate grooming and hygeine. 

Behavior: Open, cooperative Good eye contact. Orients towards 
interviewer. 
Speech: Normal tone, rate, volume and prosody.
Mood and Affect: 'better', euthymic, stable, no psychomotor 
agitation
Thought process: Linear, goal directed, no loosening of 
associations.
Thought Content: Denies suicidality or homicidality. Denies 
auditory or visual hallucinations. Paranoia and delusional 
thought content not present. Future oriented with plans to 
return home and start partial day program.
Judgment and Insight: Fair/Fair.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

As you know, you were admitted to ___ after there were 
concerns for your safety. You were noted to be having suicidal 
thoughts and worsening depression. To help treat these symptoms 
we stopped Wellbutrin and started you on Celexa. 

Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.

Please continue all medications as directed.

Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.

Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers.

We wish you the best of health,
Your ___ Mental Health Team
 
Followup Instructions:
___